US04115568
(h) Methyl 5-ethyl-2-(4-methoxy-2-nitroanilino)-thiophene-3-carboxylate
2-Fluoro-5-methoxy-nitrobenzene and methyl 2-amino-5-ethyl-thiophene-3-carboxylate, m.p. 125°-127° C. (EtOH).

reactant | 2-Fluoro-5-methoxy-nitrobenzene | FC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6FNO3
reactant | methyl 2-amino-5-ethyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OC)CC | C8H11NO2S
solvent | EtOH | CCO | C2H6O
product | Methyl 5-ethyl-2-(4-methoxy-2-nitroanilino)-thiophene-3-carboxylate | C(C)C1=CC(=C(S1)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])C(=O)OC | C15H16N2O5S
